US04226775
1-[3-Benzoyl-2-(carboxymethylthio)-2-methylpropionyl]-L-proline
As for Example 76, 1-(3-benzoyl-2-methylacryloyl)-L-proline is reacted with mercaptoacetic acid to give the product of the example as a glass.

reactant | 1-(3-benzoyl-2-methylacryloyl)-L-proline | C(C1=CC=CC=C1)(=O)C=C(C(=O)N1[C@H](C(=O)O)CCC1)C | C16H17NO4
reactant | mercaptoacetic acid | SCC(=O)O | C2H4O2S
product | 1-[3-Benzoyl-2-(carboxymethylthio)-2-methylpropionyl]-L-proline | C(C1=CC=CC=C1)(=O)CC(C(=O)N1[C@H](C(=O)O)CCC1)(C)SCC(=O)O | C18H21NO6S
